US06403804B1
In a 1 liter four-necked flask were charged 50 g (0.24 mol) of N-benzyloxycarbonylglycine and 300 ml of acetonitrile in a nitrogen stream, and 39.5 g (0.24 mol) of 1,1′-carbonyldiimidazole was added thereto over 30 minutes, followed by stirring at room temperature (22 to 24° C.) for 2 hours. After cooling to 7° C., 61.0 g (0.36 mol) of potassium malonate ethyl ester was added over 5 minutes, and 23.0 g (0.24 mol) of magnesium chloride was added over 30 minutes, followed by stirring at room temperature for 30 minutes and then at 50° C. for 2 hours to complete the reaction. Acetonitrile was removed by evaporation under reduced pressure, and 550 ml of a 5% hydrochloric acid aqueous solution was added to the reaction. The mixture was extracted and washed with 180 ml of butyl acetate. The organic layer was further washed with 100 ml of a 5% hydrochloric acid aqueous solution, neutralized with 100 ml of a 8% sodium carbonate aqueous solution, and washed with 100 ml of water. The solvent was removed by evaporation under reduced pressure to yield 67.1 g (90% as purified by column chromatography) of ethyl 4-benzyloxycarbonylamino-3-oxobutyrate as liquid.

reactant | N-benzyloxycarbonylglycine | 0.24 mol, 50 g | C(C1=CC=CC=C1)OC(=O)NCC(=O)O | C10H11NO4
reactant | 1,1′-carbonyldiimidazole | 0.24 mol, 39.5 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | potassium malonate ethyl ester | 0.36 mol, 61.0 g | C(C)OC(CC(=O)[O-])=O.[K+]
reactant | magnesium chloride | 0.24 mol, 23.0 g | [Cl-].[Mg+2].[Cl-]
solvent | acetonitrile | 300 ml | C(C)#N | C2H3N
product | ethyl 4-benzyloxycarbonylamino-3-oxobutyrate | 67.1 g, 90% | C(C1=CC=CC=C1)OC(=O)NCC(CC(=O)OCC)=O | C14H17NO5
